US04888344
(3S,4S)-3-[(1R)-1-t-Butyldimethylsilyloxyethyl]-4-[(1R)-1-p-chlorophenylthiocarbonylethyl]-1-t-butoxy- carbonylmethyl-2-azetidinone (1.0 g) was dissolved in dry methylene chloride (10 ml), and anisole (497 mg) and boron trifluoride-diethyl ether complex (1.04 g) were added thereto, followed by stirring at 38° to 42° C. for 3 hours. The organic layer was shaken with water and aqueous sodium bicarbonate. The aqueous layer was separated, adjusted to pH 1 with concentrated hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. Ethyl acetate (1 ml) was added to the residue, and the resultant mixture was warmed at 50° C. After dropwise addition of toluene (5 ml), the resultant mixture was stirred for 30 minutes and allowed to cool to room temperature. The precipitated crystals were collected by filtration and dried to give (3S,4S)-3-[(1R)-1-hydroxyethyl]-4-[(1R)- 1-p-chlorophenylthiocarbonylethyl]-1-(1-carboxymethyl)-2-azetidinone. m.p., 81°-83° C.

reactant | (3S,4S)-3-[(1R)-1-t-Butyldimethylsilyloxyethyl]-4-[(1R)-1-p-chlorophenylthiocarbonylethyl]-1-t-butoxy- carbonylmethyl-2-azetidinone | 1.0 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@]1(C(N([C@H]1[C@@H](C)C(=S)C1=CC=C(C=C1)Cl)OC(C)(C)C)=O)C=C=O | C26H38ClNO4SSi
reactant | anisole | 497 mg | C1(=CC=CC=C1)OC | C7H8O
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (3S,4S)-3-[(1R)-1-hydroxyethyl]-4-[(1R)- 1-p-chlorophenylthiocarbonylethyl]-1-(1-carboxymethyl)-2-azetidinone | O[C@H](C)[C@H]1C(N([C@@H]1[C@@H](C)C(=S)C1=CC=C(C=C1)Cl)CC(=O)O)=O | C16H18ClNO4S
